US04882350
1-benzyl-2-oxo-5-n-heptyloxy pyrrolidine.
To a mixture of 4 g of 5-(n-heptyloxy)-pyrrolidin-2-one, 1.68 g of potassium hydroxide hydrated to 85% and 0.4 g of tetra-n-butylammonium bromide in 55 cm3 of tetrahydrofuran, there is added a solution of 3.43 g of benzyl bromide in 20 cm3 of tetrahydrofuran, operating at 20° C. to 25° C. After agitating for 1 hour at ambient temperature, filtering, and evaporating the solvent to dryness under reduced pressure, the residue is chromatographed on silica (eluent: ethyl acetate--n-hexane, 1-2), and 4.54 g of the expected product is obtained.

reactant | 5-(n-heptyloxy)-pyrrolidin-2-one | 4 g | C(CCCCCC)OC1CCC(N1)=O | C11H21NO2
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
reactant | benzyl bromide | 3.43 g | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetra-n-butylammonium bromide | 0.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 55 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzyl-2-oxo-5-n-heptyloxy pyrrolidine | 4.54 g | C(C1=CC=CC=C1)N1C(CCC1OCCCCCCC)=O | C18H27NO2
